* C:\Workspaces\qubo_electronics.git\trunk\Project QUBO\eagleDesigns\powerBoard\LTC4364 Simulation\LTC4364-2_TA01A (1).asc
V1 IN 0 PWL(0 0 +50ms 16 +.1 24 +20u 80 +80ms 80 +10ms 16 +.1 16 +20u 200 +1m 200 +20u 16)
R1 IN N007 172K
R2 N008 0 10K
R3 N002 OUT 1.5m
R4 N003 N005 10
R5 OUT N009 91K
R6 N009 0 4.99K
M§Q1 IN N003 N001 N001 FDB33N25
C1 0 N005 6.8n
R9 IN N004 10K
R10 N007 N008 10k
C2 N010 0 150n
D1 0 N004 1N5373B
C3 N004 0 0.1µ
XU1 OUT N002 N006 N001 N005 N004 N004 N007 N008 0 NC_01 NC_02 N010 N009 LTC4364-2
M§Q2 N002 N006 N001 N001 FDB3682
C4 OUT 0 22µ Rser=100m
Rload OUT 0 1.666
.model D D
.lib C:\Users\nrenegar\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nrenegar\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran .7
* LTC4364 - Surge Stopper with Ideal Diode\n4A, 12V Overvoltage Output Regulator with Reverse Current Protection\nWithstands 200V 1ms & -24V Transient at Vin
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTC4364-2.sub
.backanno
.end
